US07078428B2
4-tert-Butyl-N-isobutylphthalimide is prepared as described in Example 2, starting with 10 g of 4-tert-butylphthalic anhydride and 4.9 cm3 of isobutylamine in 100 cm3 of toluene. The reaction mixture is heated at a temperature in the region of 75° C. for 10 minutes, followed by addition of a catalytic amount of para-toluenesulfonic acid and the mixture is heated at a temperature in the region of 140° C. for 3 hours. After cooling to a temperature in the region of 60° C., the reaction mixture is concentrated to dryness under reduced pressure (2 kPa). The residue is taken up in a mixture of 50 cm3 of water and 30 cm3 of saturated aqueous sodium bicarbonate solution and the aqueous phase is extracted twice with 200 cm3 of dichloromethane. The organic extracts are combined, washed with 50 cm3 of brine, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is dried in a desiccator under reduced pressure (2 kPa) at a temperature in the region of 20° C. 10.4 g of 4-tert-butyl-N-isobutylphthalimide are thus obtained in the form of a viscous yellow oil. (Rf=0.75, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (75/25 by volume)).

reactant | 4-tert-butylphthalic anhydride | 10 g | C(C)(C)(C)C=1C=C2C(C(=O)OC2=O)=CC1 | C12H12O3
reactant | isobutylamine | 4.9 cm3 | C(C(C)C)N | C4H11N
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
product | 4-tert-butyl-N-isobutylphthalimide | 10.4 g | C(C)(C)(C)C=1C=C2C(C(=O)N(C2=O)CC(C)C)=CC1 | C16H21NO2
